US08895761B2
To an ice cold solution of a mixture of 2-(4-bromo-2-ethylphenyl)-6-ethyl-4,4,6-trimethyl-1,5-dioxospiro[2.4]heptane-7-one and 2-(4-bromo-2-ethylphenyl)-4-ethyl-4,6,6-trimethyl-1,5-dioxospiro[2.4]heptane-7-one (15 g, 0.041 mol) in dichloromethane (7.5 ml) is added concentrated sulphuric acid (45 ml), dropwise, over 50-60 minutes, maintaining the temperature of the reaction mixture at 5-10° C. The reaction mixture is maintained at 5-10° C. for 10-15 minutes, quenched into crushed ice (225 g) and the aqueous phase is extracted with dichloromethane (3×100 ml). The organic phases are combined, washed with water, and dried over anhydrous sodium sulfate. The mixture is filtered, and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give 4-(4-bromo-2-ethylphenyl)-2-ethyl-2,6,6-trimethylpyran-3,5-dione (3.5 g) as a white solid.

reactant | 2-(4-bromo-2-ethylphenyl)-6-ethyl-4,4,6-trimethyl-1,5-dioxospiro[2.4]heptane-7-one | BrC1=CC(=C(C=C1)C1C(C12C(C(C(C2=O)(C)CC)=O)(C)C)=O)CC | C20H23BrO3
reactant | 2-(4-bromo-2-ethylphenyl)-4-ethyl-4,6,6-trimethyl-1,5-dioxospiro[2.4]heptane-7-one | 0.041 mol, 15 g | BrC1=CC(=C(C=C1)C1C(C12C(C(C(C2=O)(C)C)=O)(C)CC)=O)CC | C20H23BrO3
reactant | sulphuric acid | 45 ml | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 7.5 ml | ClCCl | CH2Cl2
product | 4-(4-bromo-2-ethylphenyl)-2-ethyl-2,6,6-trimethylpyran-3,5-dione | 3.5 g | BrC1=CC(=C(C=C1)C1C(C(OC(C1=O)(C)C)(C)CC)=O)CC | C18H23BrO3
